US04794186
1.42 g of ethyl (Z)-2-[2-(2,2,2-trichloroethoxycarbonylamino)thiazol-4-yl]-2-[(2-pyrrolidon-3-yl)oxyimino]acetate are suspended in 30 ml of methanol, and 3 ml of 2N sodium hydroxide are added thereto with ice-cooling. The mixture is stirred at room temperature for one hour and then refluxed for 30 minutes with heating. Then, the mixture is concentrated under reduced pressure to dryness. 5 ml of water are added to the residue, and the aqueous mixture is washed with ethyl acetate. The aqueous mixture is adjusted to pH 2 to 3 with diluted hydrochloric acid, and the mixture is extracted with a mixture of ethyl acetate and tetrahydrofuran (2:1). The extract is dried and concentrated under reduced pressure to dryness. The residue is purified by silica gel chromatography (solvent, ethyl acetate:methanol=4:1). 0.4 g of (Z)-2-[(2-(2,2,2-trichloroethoxycarbonyl-amino)thiazol-4-yl]-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid is obtained. This product begins to gradually decompose at 190° C.

reactant | ethyl (Z)-2-[2-(2,2,2-trichloroethoxycarbonylamino)thiazol-4-yl]-2-[(2-pyrrolidon-3-yl)oxyimino]acetate | 1.42 g | ClC(COC(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1C(NCC1)=O)(Cl)Cl | C14H15Cl3N4O6S
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (2-(2,2,2-trichloroethoxycarbonyl-amino)thiazol-4-yl]-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid | ClC(COC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1C(NCC1)=O)(Cl)Cl | C12H11Cl3N4O6S
